US08076478B2
(2) Synthesis of N,N,N′,N′-tetrakis(3-aminopropyl)-1,2-diaminopropane
20.05 g of N,N,N′,N′-tetrakis(2-cyanoethyl)-1,2-diaminopropane, 2.01 g of Raney Co and 100 mL of 1,4-dioxane were charged in an autoclave and a hydrogenation reaction was carried out at an initial hydrogen pressure of 9.0 MPa at 160° C. for 3 hours. After the catalyst was removed by filtration, the obtained filtrate was concentrated to dryness to give 20.52 g of the title compound as a white solid.

reactant | N,N,N′,N′-tetrakis(2-cyanoethyl)-1,2-diaminopropane | 20.05 g | C(#N)CCN(CC(C)N(CCC#N)CCC#N)CCC#N | C15H22N6
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | N,N,N′,N′-tetrakis(3-aminopropyl)-1,2-diaminopropane | 20.52 g | NCCCN(CC(C)N(CCCN)CCCN)CCCN | C15H38N6
